US05935952
In 175 ml of dimethyl sulfoxide was dissolved 35.0 g of ethyl 2-(4-bromo-2,5-difluoro-3-methylbenzoyl)-3-cyclopropylaminoacrylate, and 27.4 g of potassium carbonate was added to the solution, after which the resulting mixture was stirred at 100° C. for 30 minutes. The reaction mixture was cooled to room temperature, and 1,000 ml of water was then added thereto, after which the crystals formed were collected by filtration, to obtain 30.0 g of colorless, crystalline ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate.

reactant | ethyl 2-(4-bromo-2,5-difluoro-3-methylbenzoyl)-3-cyclopropylaminoacrylate | 35.0 g | BrC1=C(C(=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C1F)F)C | C16H16BrF2NO3
reactant | potassium carbonate | 27.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1,000 ml | O | H2O
solvent | dimethyl sulfoxide | 175 ml | CS(=O)C | C2H6OS
product | ethyl 7-bromo-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | BrC1=C(C=C2C(C(=CN(C2=C1C)C1CC1)C(=O)OCC)=O)F | C16H15BrFNO3
